US07572820B2
D. 4-Chloro-1-(2,2,2-trifluoroethyl)-2-(trifluoromethyl)-1H-benzimidazol-5-ol
A CH2Cl2 (15 mL) solution of 4-chloro-5-(methyloxy)-1-(2,2,2-trifluoroethyl)-2-(trifluoromethyl)-1H-benzimidazole (0.14 g, 0.422 mmol) at rt was treated dropwise with BBr3 (1M CH2Cl2, 1.055 ml, 1.055 mmol) and stirred for 2 h. The mixture was quenched with saturated aqueous NaHCO3, adjusted to a pH of 7, and extracted with CH2Cl2. The combined organic portions were washed combined with brine, dried over Na2SO4, filtered, and concentrated in vacuo. Purification (SiO2; EtOAc/hexanes) afforded the title compound (0.103 g): MS (ESI) m/z 319 (M+1).

reactant | 4-chloro-5-(methyloxy)-1-(2,2,2-trifluoroethyl)-2-(trifluoromethyl)-1H-benzimidazole | 0.422 mmol, 0.14 g | ClC1=C(C=CC=2N(C(=NC21)C(F)(F)F)CC(F)(F)F)OC | C11H7ClF6N2O
reactant | BBr3 | 1.055 mmol, 1M, 1.055 ml | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
product | 4-Chloro-1-(2,2,2-trifluoroethyl)-2-(trifluoromethyl)-1H-benzimidazol-5-ol | 0.103 g | ClC1=C(C=CC=2N(C(=NC21)C(F)(F)F)CC(F)(F)F)O | C10H5ClF6N2O
